US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-fluoro-7-methylamino-6-nitro-1,4-dihydro-oxoquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-7,8-difluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (70 mg) was added to a mixed liquid of a 40% aqueous solution (80 mg) of methylamine and pyridine (2 ml), and the mixture was stirred at room temperature for 1 hour. The solution was acidified with 3% citric acid (10 ml), and solids formed were collected by filtration. The solids were washed with water, ethanol and hexane to obtain the title compound (56 mg) as a yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-7,8-difluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 70 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)[N+](=O)[O-])=O)C(=O)O)F)F | C16H7F4N3O5
reactant | methylamine | CN | CH5N
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-fluoro-7-methylamino-6-nitro-1,4-dihydro-oxoquinoline-3-carboxylic Acid | 56 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)F)NC)[N+](=O)[O-])=O)C(=O)O)F)F | C17H11F3N4O5
